US04055595
Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate (12.0 g.) is added dropwise at ambient temperature to a stirred mixture of sodium hydride (2.4 g. of a 60% dispersion in oil) and dimethylformamide (100 ml.). The mixture is stirred for 4 hours, 4-chlorobenzyl chloride (8.4 g.) is added, and the stirring is continued for 6 days. The mixture is filtered, and the filtrate is evaporated in vacuo. The residue is fractionally distilled at 0.1 mm. pressure, collecting the fraction, (9.9 g.) b.p. 78°-80° C., m.p. 32°-33° C, which is crystallized from pentane to give ethyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionate, m.p. 33° C.

reactant | Ethyl 2-hydroxy-3,3,3-trifluoro-2-trifluoromethylpropionate | 12.0 g | OC(C(=O)OCC)(C(F)(F)F)C(F)(F)F | C6H6F6O3
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 8.4 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(4-chlorobenzyloxy)-3,3,3-trifluoro-2-trifluoromethylpropionate | ClC1=CC=C(COC(C(=O)OCC)(C(F)(F)F)C(F)(F)F)C=C1 | C13H11ClF6O3
